US05674886
0.23 Gram of 4-[(4-trifluoromethylphenyl)-amino]-4H-1,2,4-triazole was added little by little to an N,N-dimethylformamide suspension of 0.04 g of sodium hydride at room temperature. The mixture was stirred for 30 minutes at room temperature, and 0.15 g of 4-fluoronitrobenzene was added thereto and the mixture was stirred for 15 minutes at 100° C. The solvent was removed by distillation under reduced pressure and water was added to the residue, which was then extracted with chloroform. The chloroform layer was washed with water and dried over anhydrous magnesium sulfate, and the solvent was removed by distillation. The crystals thus obtained were recrystallized from a mixed solvent of ethyl acetate/ether to give 280 mg of 4-[N-(4-nitrobenzyl)-N-(4-trifluoromethylphenyl)amino]-4H-1,2,4-triazole.

reactant | 4-[(4-trifluoromethylphenyl)-amino]-4H-1,2,4-triazole | FC(C1=CC=C(C=C1)NN1C=NN=C1)(F)F | C9H7F3N4
reactant | sodium hydride | 0.04 g | [H-].[Na+]
reactant | 4-fluoronitrobenzene | 0.15 g | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
reactant | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 4-[N-(4-nitrobenzyl)-N-(4-trifluoromethylphenyl)amino]-4H-1,2,4-triazole | 280 mg | [N+](=O)([O-])C1=CC=C(CN(C2=CC=C(C=C2)C(F)(F)F)N2C=NN=C2)C=C1 | C16H12F3N5O2
